**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Common Mode Power Line Choke
* Matchcode:              WE-CMB 
* Library Type:           Pspice
* Version:                rev25a
* Created/modified by:    Ella      
* Date and Time:          2025-04-09
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2025 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt CMB_XS_744821201_1m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=386.0734n
+  DL4=15.6647n
+  DC3=1.0228f
+  DC4=3.2534p
+  DR3=70.0106
+  DR4=513.1195
+  DR5=59.9307
+  DR6=269.9901
+  Rdc=0.045
+  ck=7.8120p
+  L1=996.6129u
+  L2=9.9334u
+  L3=2.0045n
+  L4=35.0231n
+  L5=4.9923n
+  C1=3.0554p
+  C2=24.9444p
+  RS1=9.8704k
+  RS2=7.0003k
+  RS3=5.0000k
+  RS4=5.0000k
+  RS5=100.0039
+  R2=80.0114m
.ends CMB_XS_744821201_1m
****
.subckt CMB_XS_744821240_4m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.0000017
+  DL4=0.000000035
+  DC3=0.000000000006
+  DC4=0.000000000003
+  DR3=17
+  dR4=11.25k
+  DR5=230
+  dR6=50k
+  Rdc=0.082
+  ck=2pF
+  L1=3.3m
+  L2=0.81m
+  L3=23u
+  L4=40u
+  L5=570.4n
+  C1=12.2p
+  C2=1
+  Rs1=19.5k
+  Rs2=29k
+  RS3=500
+  RS4=600
+  RS5=2000
+  R2=10.41
.ends CMB_XS_744821240_4m
****
.subckt CMB_XS_744821150_5m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.0000018
+  DL4=0.000000064
+  DC3=0.0000000000125
+  DC4=0.000000000005
+  DR3=17
+  dR4=15k
+  DR5=30
+  dR6=2k
+  Rdc=0.168
+  ck=2pF
+  L1=3.6m
+  L2=0.8m
+  L3=23u
+  L4=4u
+  L5=800.4n
+  C1=11.5p
+  C2=4p
+  Rs1=19k
+  Rs2=19k
+  RS3=500
+  RS4=200
+  RS5=2500
+  R2=1
.ends CMB_XS_744821150_5m
****
.subckt CMB_XS_744821110_10m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.0000052
+  DL4=0.000000005
+  DC3=0.000000000022
+  DC4=0.000000000006
+  DR3=17
+  dR4=25k
+  dR5=30k
+  dR6=5k
+  Rdc=0.266
+  ck=6pF
+  L1=8.8m
+  L2=0.180m
+  L3=23u
+  L4=4u
+  L5=520.4n
+  C1=14p
+  C2=10p
+  Rs1=69k
+  Rs2=20k
+  RS3=500
+  RS4=200
+  RS5=800
+  R2=1
.ends CMB_XS_744821110_10m
****
.subckt CMB_XS_744821120_20m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.000011
+  DL4=0.000000007
+  DC3=0.000000000019
+  DC4=0.000000000001
+  DR3=17
+  dR4=30k
+  DR5=30
+  dR6=8k
+  Rdc=0.779
+  ck=12pF
+  L1=19.8m
+  L2=1.8m
+  L3=23u
+  L4=4u
+  L5=2.920u
+  C1=11p
+  C2=15p
+  Rs1=129k
+  Rs2=20k
+  RS3=500
+  RS4=200
+  RS5=2200
+  R2=20.41
.ends CMB_XS_744821120_20m
****
.subckt CMB_XS_744821039_39m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.000022
+  DL4=0.000000225
+  DC3=0.000000000027
+  DC4=0.000000000038
+  DR3=17
+  dR4=127k
+  DR5=23
+  dR6=1.5k
+  Rdc=1.905
+  ck=3pF
+  L1=37.5m
+  L2=1.8m
+  L3=23u
+  L4=4u
+  L5=630n
+  C1=27p
+  C2=90p
+  Rs1=499k
+  Rs2=29k
+  RS3=500
+  RS4=200
+  RS5=1000
+  R2=1
.ends CMB_XS_744821039_39m
****
.subckt CMB_S_744822301_1m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=254.1932n
+  DL4=10.3244n
+  DC3=2.8296p
+  DC4=109.3773p
+  DR3=70.0106
+  DR4=502.5497
+  DR5=59.9476
+  DR6=73.1358
+  Rdc=0.035
+  ck=1.0441p
+  L1=996.6129u
+  L2=9.9334u
+  L3=2.0045n
+  L4=35.0231n
+  L5=14.9923u
+  C1=5.8554p
+  C2=32.9444p
+  RS1=10.5704k
+  RS2=7.0003k
+  RS3=5.0000k
+  RS4=51.0000k
+  RS5=1.0002k
+  R2=80.0114m
.ends CMB_S_744822301_1m
****
.subckt CMB_S_744822233_3.3m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.0000014
+  DL4=0.000000003
+  DC3=0.0000000000083
+  DC4=0.000000000002
+  DR3=17
+  dR4=22k
+  DR5=30
+  dR6=2k
+  Rdc=0.079
+  ck=3pF
+  L1=3m
+  L2=0.58m
+  L3=23u
+  L4=4u
+  L5=210.4n
+  C1=8p
+  C2=8p
+  Rs1=38k
+  Rs2=6k
+  RS3=500
+  RS4=200
+  RS5=1200
+  R2=1.41
.ends CMB_S_744822233_3.3m
****
.subckt CMB_S_744822110_10m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.0000035
+  DL4=0.000000104
+  DC3=0.0000000000192
+  DC4=0.000000000019
+  DR3=17
+  dR4=27k
+  DR5=30
+  dR6=12k
+  Rdc=0.236
+  ck=4pF
+  L1=11.6m
+  L2=800u
+  L3=23u
+  L4=4u
+  L5=1.8u
+  C1=14.5p
+  C2=8p
+  Rs1=79k
+  Rs2=19k
+  RS3=500
+  RS4=200
+  RS5=5000
+  R2=10.41
.ends CMB_S_744822110_10m
****
.subckt CMB_S_744822120_20m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.0000068
+  DL4=0.00000001
+  DC3=0.000000000032
+  DC4=0.000000000003
+  DR3=17
+  dR4=27k
+  DR5=30
+  dR6=2k
+  Rdc=0.355
+  ck=10pF
+  L1=16.6m
+  L2=800u
+  L3=23u
+  L4=4u
+  L5=80.4n
+  C1=26.5p
+  C2=28p
+  Rs1=340k
+  Rs2=19k
+  RS3=500
+  RS4=200
+  RS5=800
+  R2=1.41
.ends CMB_S_744822120_20m
****
.subckt CMB_M_744823305_5m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  L1=0.0000149932488790583
+  L2=0.0000219946000050973
+  L3=0.0000734873979778146
+  L4=0.00545630375790193
+  L5=9.38962438216997E-10
+  C1=1.50319062754058E-11
+  C2=5.341200990649E-12
+  RS1=5265.31166846459
+  RS2=7902.70514846992
+  RS3=1651.19231206434
+  RS4=39361.136544689
+  RS5=9214.69726890499
+  R2=0.109490257696781
+  DL3=0.0000017
+  DL4=0.00000002
+  DC3=0.000000000033
+  DC4=0.00000000006
+  DR3=4
+  DR4=1120
+  DR5=6
+  DR6=800
+  Rdc=60.229m
+  ck=4pF
.ends CMB_M_744823305_5m
****
.subckt CMB_M_744823601_1m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.00000024233
+  DC3=0.00000000001
+  DL4=0.00000001079
+  DC4=0.00000000000421
+  DR3=10
+  DR4=3300
+  DR5=173
+  DR6=2705
+  Rdc=8.952m
+  ck=2.005pF
+  L1=0.00001849
+  L2=0.000039
+  L3=0.000019
+  L4=0.0009
+  L5=0.00000001869
+  C1=0.00000000000305
+  C2=0.00000000000415
+  RS1=745
+  RS2=200
+  RS3=332
+  RS4=3200
+  RS5=362
+  R2=11
.ends CMB_M_744823601_1m
****
.subckt CMB_M_744823422_2.2m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  L1=3m
+  L2=800.72u
+  L3=523.19u
+  L4=242.84u
+  L5=42.11n
+  C1=3.43p
+  C2=4.39p
+  RS1=7554
+  RS2=1544
+  RS3=1544
+  RS4=2457
+  RS5=561
+  R2=39
+  dL3=532.17n
+  dC3=11.33p
+  dL4=27.79n
+  dC4=4.13p
+  DR3=28
+  DR4=10212
+  DR5=23
+  DR6=2190
+  Rdc=24.288m
+  ck=2p
.ends CMB_M_744823422_2.2m
****
.subckt CMB_M_744823333_3.3m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.0000008388
+  DC3=0.0000000000124
+  DL4=0.00000004038
+  DC4=0.00000000000673
+  DR3=0.21
+  DR4=7180
+  DR5=45
+  DR6=1197
+  Rdc=45.566m
+  ck=2.005pF
+  L1=2m
+  L2=0.00038766
+  L3=0.00021925
+  L4=0.007228
+  L5=0.000000082
+  C1=0.00000000000368
+  C2=0.00000000000359
+  RS1=549
+  RS2=539
+  RS3=539
+  RS4=18717
+  RS5=756
+  R2=39
.ends CMB_M_744823333_3.3m
****
.subckt CMB_M_744823210_10m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.00000268
+  DC3=0.000000000026
+  DL4=0.00000007674
+  DC4=0.000000000032
+  DR3=1.43
+  DR4=11000
+  DR5=0.019
+  DR6=1052
+  Rdc=99.542m
+  ck=2.005pF
+  L1=10m
+  L2=2m
+  L3=203u
+  L4=104u
+  L5=900.4n
+  C1=16.7p
+  C2=20p
+  Rs1=48k
+  Rs2=29k
+  Rs3=5k
+  Rs4=5k
+  Rs5=2k
+  R2=40.41
.ends CMB_M_744823210_10m
****
.subckt CMB_M_744823220_20m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.0000062
+  DL4=0.000000095
+  DC3=0.000000000032
+  DC4=0.00000000006
+  DR3=17
+  dR4=30k
+  DR5=23
+  dR6=4k
+  Rdc=216.759m
+  ck=3pF
+  L1=19m
+  L2=0.000059
+  L3=0.000092
+  L4=0.000021
+  L5=0.000000124
+  C1=0.000000000022
+  C2=0.00000000003
+  Rs1=124k
+  Rs2=199k
+  RS3=561
+  RS4=915
+  RS5=894
+  R2=1
.ends CMB_M_744823220_20m
****
.subckt CMB_L_744824101_1m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.00000040534
+  DC3=0.00000000001907
+  DL4=0.00000001675
+  DC4=0.00000000000382
+  DR3=10
+  DR4=4300
+  DR5=0.63
+  DR6=1750
+  Rdc=6.372m
+  ck=2.005pF
+  L1=0.00172384
+  L2=0.00089876
+  L3=0.00015148
+  L4=0.0001977
+  L5=0.0000001268
+  C1=0.00000000000832
+  C2=0.00000000000548
+  RS1=565
+  RS2=470
+  RS3=557
+  RS4=2992
+  RS5=643
+  R2=0.56
.ends CMB_L_744824101_1m
****
.subckt CMB_L_744824622_2.2m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.00000068242
+  DC3=0.00000000001367
+  DL4=0.000000029
+  DC4=0.00000000000971
+  DR3=0.02
+  DR4=6278
+  DR5=28
+  DR6=821
+  Rdc=16.345m
+  ck=2pF
+  L1=0.00000897
+  L2=0.00016374
+  L3=0.00013744
+  L4=0.00443191
+  L5=0.00000010639
+  C1=0.00000000000399
+  C2=0.00000000000211
+  RS1=10
+  RS2=943
+  RS3=928
+  RS4=8391
+  RS5=765
+  R2=4
.ends CMB_L_744824622_2.2m
****
.subckt CMB_L_744824433_3.3m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=1u
+  dL4=50.25n
+  dC3=15.595p
+  dC4=8.4p
+  DR3=0.1
+  dR4=8k
+  DR5=0.1
+  DR6=900
+  Rdc=28.429m
+  ck=2pF
+  L1=0.000001023
+  L2=0.00013929
+  L3=0.00017837
+  L4=0.00099218
+  L5=0.0000000783
+  C1=0.00000000000471
+  C2=0.00000000000684
+  RS1=504
+  RS2=500
+  RS3=545
+  RS4=11862
+  RS5=676
+  R2=11
.ends CMB_L_744824433_3.3m
****
.subckt CMB_L_744824220_20m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.0000077
+  DL4=0.000000485
+  DC3=0.000000000028
+  DC4=0.000000000011
+  DR3=17
+  dR4=50k
+  DR5=30
+  dR6=5k
+  Rdc=175.322m
+  ck=5pF
+  L1=18.2m
+  L2=0.7m
+  L3=23u
+  L4=4u
+  L5=2.2u
+  C1=32p
+  C2=23p
+  Rs1=46k
+  Rs2=39k
+  RS3=500
+  RS4=600
+  RS5=3000
+  R2=10.41
.ends CMB_L_744824220_20m
****
.subckt CMB_L_744824310_10m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  L1=0.00975054658861754
+  L2=1.14140874719913E-06
+  L3=0.0000194215546747162
+  L4=1.85397202790917E-06
+  L5=1.37528846983612E-06
+  C1=1.06648809782419E-11
+  C2=1.54875317445924E-11
+  RS1=68798.4459196234
+  RS2=49005.5273080916
+  RS3=4486.62345566418
+  RS4=361.356712407375
+  RS5=1960.56329938029
+  R2=11.2784542155485
+  DL3=3.33880176803062E-06
+  DC3=1.51444689487349E-11
+  DL4=4.03878815013849E-09
+  DC4=6.73761021204444E-12
+  DR3=0.717429786820428
+  DR4=17180.6679766708
+  DR5=55.0109730646157
+  DR6=3197.74941444441
+  Rdc=85.225m
+  ck=4pF
.ends CMB_L_744824310_10m
****
.subckt CMB_XL_7448251201_1m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.0000003
+  DC3=0.00000000001
+  DL4=0.00000000951
+  DC4=0.00000000000463
+  DR3=0.18
+  DR4=2680
+  DR5=0.78
+  DR6=366
+  Rdc=5.598m
+  ck=5pF
+  L1=0.00022
+  L2=0.00019
+  L3=0.00022
+  L4=0.00064
+  L5=0.00000001398
+  C1=0.00000000000335
+  C2=0.00000000000531
+  RS1=560
+  RS2=550
+  RS3=1500
+  RS4=798
+  RS5=269
+  R2=7
.ends CMB_XL_7448251201_1m
****
.subckt CMB_XL_7448258022_2.2m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.00000058
+  DL4=0.000000025
+  DC3=0.0000000000165
+  DC4=0.00000000001
+  DR3=17
+  dR4=7k
+  DR5=23
+  dR6=3k
+  Rdc=11.1m
+  ck=1pF
+  L1=1.8m
+  L2=80u
+  L3=23u
+  L4=4u
+  L5=135n
+  C1=4.5p
+  C2=1.5p
+  RS1=4000
+  RS2=1600
+  RS3=1500
+  RS4=200
+  RS5=800
+  R2=1
.ends CMB_XL_7448258022_2.2m
****
.subckt CMB_XL_7448256033_3.3m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.00000085
+  DL4=0.000000058
+  DC3=0.0000000000144
+  DC4=0.000000000001
+  DR3=17
+  dR4=9k
+  DR5=23
+  dR6=2k
+  Rdc=18.752m
+  ck=4pF
+  L1=2.6m
+  L2=700u
+  L3=23u
+  L4=4u
+  L5=110.4n
+  C1=5p
+  C2=2.8p
+  Rs1=16k
+  Rs2=6k
+  RS3=500
+  RS4=600
+  RS5=900
+  R2=10.41
.ends CMB_XL_7448256033_3.3m
****
.subckt CMB_XL_744825605_5m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.00000133
+  DC3=0.00000000001775
+  DL4=0.00000003977
+  DC4=0.00000000002487
+  DR3=13
+  DR4=7090
+  DR5=13
+  DR6=6762
+  Rdc=35.042m
+  ck=2pF
+  L1=0.00034616
+  L2=0.00025028
+  L3=0.00025626
+  L4=0.00065136
+  L5=0.0000001087
+  C1=0.00000000000515
+  C2=0.00000000000874
+  RS1=2558
+  RS2=2548
+  RS3=6527
+  RS4=2609
+  RS5=674
+  R2=15
.ends CMB_XL_744825605_5m
****
.subckt CMB_XL_744825510_10m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.0000027
+  DL4=0.000000081
+  DC3=0.000000000037
+  DC4=0.000000000005
+  DR3=17
+  dR4=30k
+  DR5=23
+  dR6=12k
+  Rdc=40.604m
+  ck=5pF
+  L1=8m
+  L2=1m
+  L3=23u
+  L4=4u
+  L5=600.4n
+  C1=22p
+  C2=16p
+  Rs1=60k
+  RS2=6000
+  RS3=500
+  RS4=600
+  RS5=1600
+  R2=1.41
.ends CMB_XL_744825510_10m
****
.subckt CMB_XL_744825320_20m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.0000059
+  DL4=0.00000014
+  DC3=0.000000000036
+  DC4=0.000000000046
+  DR3=17
+  dR4=35k
+  DR5=23
+  dR6=9k
+  Rdc=123.197m
+  ck=5pF
+  L1=16m
+  L2=580u
+  L3=23u
+  L4=4u
+  L5=900.4n
+  C1=31p
+  C2=48p
+  Rs1=62k
+  Rs2=6k
+  RS3=500
+  RS4=600
+  RS5=1600
+  R2=1.41
.ends CMB_XL_744825320_20m
****
.subckt CMB_XL_744825433_33m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  L1=0.0282615082580083
+  L2=0.00151069974592023
+  L3=0.0000635319123130355
+  L4=0.0000802861920160678
+  L5=8.4783967316618E-07
+  C1=3.31973088954225E-11
+  C2=8.99664633755108E-11
+  RS1=271189.203553144
+  RS2=68603.4021105262
+  RS3=958.938477130436
+  RS4=557.325344506158
+  RS5=1527.4005919289
+  R2=54.5016446977904
+  DL3=9.83880176803062E-06
+  DC3=4.9444689487349E-11
+  DL4=2.00387881501384E-07
+  DC4=4.17376102120444E-11
+  DR3=0.217429786820428
+  DR4=19180.6679766708
+  DR5=39.0109730646157
+  DR6=5197.74941444441
+  Rdc=187.34m
+  ck=4pF
.ends CMB_XL_744825433_33m
****
.subckt CMB_XXL_7448262510_1m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  L1=0.00030889
+  L2=0.00039029
+  L3=0.00005
+  L4=0.00005
+  L5=0.00032526
+  C1=0.0000000000218
+  C2=0.00000000000527
+  RS1=3140
+  RS2=2206
+  RS3=3254
+  RS4=4188
+  RS5=3190
+  R2=0.054
+  DL3=0.00000049
+  DC3=0.0000000000129
+  DL4=0.00000003711
+  DC4=0.00000000000007
+  DR3=0.48
+  DR4=3680
+  DR5=18
+  DR6=366
+  Rdc=3.427m
+  ck=4pF
.ends CMB_XXL_7448262510_1m
****
.subckt CMB_XXL_7448261418_1.8m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  L1=0.00140889
+  L2=0.00039029
+  L3=0.00005
+  L4=0.00005
+  L5=0.00012526
+  C1=0.0000000000098
+  C2=0.00000000000987
+  RS1=8140
+  RS2=8206
+  RS3=3254
+  RS4=4188
+  RS5=2500
+  R2=0.054
+  DL3=0.00000094
+  DC3=0.0000000000176
+  DL4=0.00000005111
+  DC4=0.00000000000233
+  DR3=0.48
+  DR4=6680
+  DR5=0.58
+  DR6=566
+  Rdc=7.79m
+  ck=4pF
.ends CMB_XXL_7448261418_1.8m
****
.subckt CMB_XXL_7448262013_1.3m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  L1=0.00060889
+  L2=0.00059029
+  L3=0.00005
+  L4=0.00001
+  L5=0.00012526
+  C1=0.0000000000108
+  C2=0.00000000000687
+  RS1=4140
+  RS2=2206
+  RS3=2254
+  RS4=3188
+  RS5=2100
+  R2=0.054
+  DL3=0.00000062
+  DC3=0.0000000000148
+  DL4=0.00000003811
+  DC4=0.00000000000213
+  DR3=0.48
+  DR4=4680
+  DR5=0.58
+  DR6=446
+  Rdc=4.8m
+  ck=4pF
.ends CMB_XXL_7448262013_1.3m
****
.subckt CMB_XXL_7448263505_0.5m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  L1=0.000209496782810346
+  L2=0.000207729580657503
+  L3=0.000244939980673891
+  L4=4.35416881861321E-06
+  L5=0.0000181955270659663
+  C1=7.22232517664312E-11
+  C2=6.74966861088266E-11
+  RS1=12.914504794244
+  RS2=2355.13991346187
+  RS3=1395.50992687538
+  RS4=13415.8487785026
+  RS5=260.107405675112
+  R2=40.2708746893173
+  DL3=0.00000023
+  DC3=0.0000000000106
+  DL4=0.00000001211
+  DC4=0.00000000000033
+  DR3=0.48
+  DR4=1580
+  DR5=0.58
+  DR6=166
+  Rdc=1.84m
+  ck=4pF
.ends CMB_XXL_7448263505_0.5m
****
.subckt CMB_S_744822222_2.2m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.68u
+  DL4=3n
+  DC3=8.3p
+  DC4=2p
+  DR3=17
+  dR4=6k
+  DR5=30
+  dR6=2k
+  Rdc=0.079
+  ck=3pF
+  L1=1.75m
+  L2=0.58m
+  L3=23u
+  L4=4u
+  L5=210.4n
+  C1=6.5p
+  C2=8p
+  Rs1=17.5k
+  Rs2=6k
+  RS3=500
+  RS4=200
+  RS5=1200
+  R2=1.41
.ends CMB_S_744822222_2.2m
****
.subckt CMB_L_744824407_7m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.00000228242
+  DC3=0.00000000001367
+  DL4=0.000000159
+  DC4=0.00000000000971
+  DR3=0.02
+  DR4=8278
+  DR5=28
+  DR6=821
+  Rdc=16.345m
+  ck=2pF
+  L1=0.00000897
+  L2=0.00016374
+  L3=0.00221744
+  L4=0.00443191
+  L5=0.00000010639
+  C1=0.00000000002399
+  C2=0.00000000001211
+  RS1=10
+  RS2=943
+  RS3=30928
+  RS4=30391
+  RS5=765
+  R2=4
.ends CMB_L_744824407_7m
****
.subckt CMB_L_744824801_1m  1 2 3 4
X1  1  2  3  4  CMB1  PARAMS:
+ L3=1150u
+ Rs3=6.4k
+ C1=12p
+ R2=1
+ L1=0.1p
+ Rs2=700
+ C2=0.1u
+ Rs1=10
+ L2=1u
+ L4=0.01u
+ Rs4=1
+ L5=0.01p
+ Rs5=0.1k
+ dR5=1
+ Rdc=1m
+ ck=3p
+ dR3=1k
+ dR6=2.8k
+ dR4=1k
+ dC3=2.1p
+ dL3=0.2u
+ dC4=1p
+ dL4=0.245u
.ends
****
.subckt CMB_XL_744825410_10m  1 2 3 4
X1  1  2  3  4  CMB1  PARAMS:
+ L3=10m
+ Rs3=116.4k
+ C1=32p
+ R2=1
+ L1=0.1p
+ Rs2=700
+ C2=0.1u
+ Rs1=10
+ L2=1u
+ L4=0.01u
+ Rs4=1
+ L5=0.01p
+ Rs5=0.1k
+ dR5=1
+ Rdc=1m
+ ck=8p
+ dR3=1.1k
+ dR6=10.1k
+ dR4=1.1k
+ dC3=10.1p
+ dL3=0.30u
+ dC4=1p
+ dL4=2.4u
.ends
****
.subckt CMB_L_744824405_5m  1 2 3 4
X1  1  2  3  4  CMB1  PARAMS:
+ L3=5.6m
+ Rs3=44.0k
+ C1=14.5p
+ R2=1
+ L1=0.1p
+ Rs2=100
+ C2=0.1u
+ Rs1=10
+ L2=1u
+ L4=0.01u
+ Rs4=1
+ L5=0.01p
+ Rs5=0.01k
+ dR5=1
+ Rdc=1m
+ ck=5p
+ dR3=2.1k
+ dR6=23.4k
+ dR4=1.1k
+ dC3=10p
+ dL3=0.60u
+ dC4=0.8p
+ dL4=1.0u
.ends
********
.subckt CMB    1  2  3  4  PARAMS: 
+  L1=605.38e-6
+  L2=100.35e-006
+  L3=42.47e-006
+  L4=10.22e-006
+  L5=36e-009
+  C1=3e-012
+  C2=1e-012
+  Rs1=8828
+  Rs2=1447
+  Rs3=703
+  Rs4=678
+  Rs5=509
+  R2=0.11
+  dL3=310.37e-009
+  dL4=11.06e-009
+  dC3=190.56e-015
+  dC4=7e-012
+  dR3=1000
+  dR4=4500
+  dR5=11000
+  dR6=438
+  Rdc=0.43
+  ck=12.5pF
R_R9  N12325  4  {R2}
R_R8  N13265  N13287  {Rs4}
Kn_K6a  L_L11  L_L12  0.9999
Kn_K6b  L_L11  L_L13  0.9999
Kn_K6c  L_L11  L_L14  0.9999
Kn_K6d  L_L12  L_L13  0.9999
Kn_K6e  L_L12  L_L14  0.9999
Kn_K6f  L_L13  L_L14  0.9999
R_R3  N12571  N12583  {Rs3}
R_R10  N13777  3  {R2}
C_C10  N13029  N12821  {ck}
R_R20  N13215  N13229  {dR4}
L_L11  N12821  N12295  {dL4}
R_R17  N12267  N12273  {dR3}
L_L8  N13265  N13287  {L4}
R_R7  N13287  N13305  {Rs3}
L_L9  N12295  N12307  {L5}
Kn_K4  L_L7  L_L8  1
R_R2  N12583  N12599  {Rs2}
Kn_K5  L_L9  L_L10  1
R_R16  N13229  N13249  {dR6}
Kn_K7a  L_L15  L_L16  0.9999
Kn_K7b  L_L15  L_L17  0.9999
Kn_K7c  L_L15  L_L18  0.9999
Kn_K7d  L_L16  L_L17  0.9999
Kn_K7e  L_L16  L_L18  0.9999
Kn_K7f  L_L17  L_L18  0.9999
C_C5  N12273  N12289  {dC4}
L_L6  N13287  N13305  {L3}
L_L7  N12307  N12571  {L4}
R_R6  N13305  N13319  {Rs2}
R_R21  1  N12257  {Rdc}
Kn_K3  L_L5  L_L6  1
L_L16  N12257  N12799  {dL3}
C_C8  N13215  N13741  {dC3}
L_L18  N13023  N13215  {dL3}
R_R1  N12599  4  {Rs1}
R_R13  N12289  N12295  {dR5}
L_L4  N13305  N13319  {L2}
L_L5  N12571  N12583  {L3}
R_R15  N13755  N13249  {dR5}
R_R5  N13319  3  {Rs1}
R_R18  N12257  N12273  {dR4}
Kn_K2  L_L3  L_L4  1
R_R19  N13741  N13229  {dR3}
L_L15  N12799  N12273  {dL3}
L_L17  N13229  N13023  {dL3}
L_L3  N12583  N12599  {L2}
R_R11  N12295  N12307  {Rs5}
L_L2  N13319  3  {L1}
C_C4  N13249  N13265  {C2}
L_L10  N13249  N13265  {L5}
Kn_K1  L_L1  L_L2  1
R_R14  N12273  N12295  {dR6}
C_C6  N13229  N13755  {dC4}
L_L12  N12273  N12821  {dL4}
L_L14  N13029  N13229  {dL4}
L_L1  N12599  4  {L1}
C_C1  N12307  N12325  {C1}
R_R12  N13249  N13265  {Rs5}
C_C2  N13265  N13777  {C1}
R_R22  2  N13215  {Rdc}
C_C9  N13023  N12799  {ck}
R_R4  N12307  N12571  {Rs4}
C_C3  N12295  N12307  {C2}
L_L13  N13249  N13029  {dL4}
C_C7  N12257  N12267  {dC3} 
.ends CMB
****
.subckt CMB1 1 2 3 4 PARAMS:
+ L3=1150u
+ Rs3=6.4k
+ C1=12p
+ R2=1
+ L1=0.1p
+ Rs2=700
+ C2=0.1u
+ Rs1=10
+ L2=1u
+ L4=0.01u
+ Rs4=1
+ L5=0.01p
+ Rs5=0.1k
+ dR5=1
+ Rdc=1m
+ ck=3p
+ dR3=1k
+ dR6=2.8k
+ dR4=1k
+ dC3=2.1p
+ dL3=0.2u
+ dC4=1p
+ dL4=0.245u
L5 N009 N008 {L3}
C3 N002 N001 {C1}
L1 4 N010 {L1}
L3 N010 N009 {L2}
L6 N015 N014 {L3}
C4 N024 N013 {C1}
L2 3 N016 {L1}
L4 N016 N015 {L2}
L8 N014 N013 {L4}
L7 N008 N001 {L4}
L9 N001 N007 {L5}
L10 N013 N021 {L5}
R1 N003 1 {Rdc}
R2 N005 N003 {dR4}
C1 N004 N003 {dC3}
L17 N011 N003 {dL3}
L18 N017 N018 {dL3}
C2 N011 N018 {ck}
R3 N005 N004 {dR3}
R4 N019 N022 {dR3}
C9 N022 N017 {dC3}
R5 N019 N017 {dR4}
L19 N005 N011 {dL3}
L20 N018 N019 {dL3}
R6 N017 2 {Rdc}
R8 N007 N005 {dR6}
C10 N006 N005 {dC4}
L13 N012 N005 {dL4}
L14 N019 N020 {dL4}
C11 N012 N020 {ck}
R9 N007 N006 {dR5}
R10 N021 N023 {dR5}
C12 N023 N019 {dC4}
R11 N021 N019 {dR6}
L15 N007 N012 {dL4}
L16 N020 N021 {dL4}
R7 N001 N007 {Rs5}
C5 N001 N007 {C2}
R12 N013 N021 {Rs5}
C6 N013 N021 {C2}
R13 N008 N001 {Rs4}
R14 N009 N008 {Rs3}
R15 N010 N009 {Rs2}
R16 4 N010 {Rs1}
R17 N014 N013 {Rs4}
R18 N015 N014 {Rs3}
R19 N016 N015 {Rs2}
R20 3 N016 {Rs1}
R21 3 N002 {R2}
R22 4 N024 {R2}
K3 L5 L6 1
K2 L3 L4 1
K1 L1 L2 1
K4 L7 L8 1
K5 L9  L10 1
K7a L17 L18 0.9999
K7b L17 L19 0.9999
K7c L17 L20 0.9999
K7d L18 L19 0.9999
K7e L18 L20 0.9999
K7f L19 L20 0.9999
K6a L13 L14 0.9999
K6b L13 L15 0.9999
K6c L13 L16 0.9999
K6d L14 L15 0.9999
K6e L14 L16 0.9999
K6f L15 L16 0.9999
.ends
****